US08258180B2
Prepare 340 grams of solution A as in Example 1 with 9.56% zinc. Dissolve 168 grams of 2-mercaptobenzothiazole with melting point of about 180° C. in a solution with 40.4 grams of sodium hydroxide diluted to 805 ml of aqueous solution. The pH of the solution is measured to be 10.88. Mix the two solutions and stir vigorously. The pH of the mixture is measured at 10.92. Ammonia is liberated and white precipitates appear. Filter and wash the precipitates until the pH of the washing water drops to 9.55. Dry the white precipitates at 160° C. for 5 hours and then and mill it to obtain zinc 2-mercaptobenzothiazole, sample No. ZMBT-B, with the following properties:

reactant | zinc | [Zn] | Zn
reactant | 2-mercaptobenzothiazole | 168 grams | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | Ammonia | N | H3N
solvent | sodium hydroxide | 40.4 grams | [OH-].[Na+]
product | zinc 2-mercaptobenzothiazole | SC=1SC2=C(N1)C=CC=C2.[Zn] | InChI=1S/C7H5NS2.Zn/c9-7-8-5-3-1-2-4-6(5)10-7;/h1-4H,(H,8,9);
